US04079066
To a stirred solution of methyl lithium (0.04 mole, 20 ml of a 1.9M solution in ether) under nitrogen at ambient temperature was added portionwise 7-hydroxy-4-(2-naphthyl)coumarin (2.89 g, 0.01 mole). After 5 hours the solution was decomposed with acid to give 2,2-dimethyl-4-(2-naphthyl)-2H-chromen-7-ol as a crude dark brown foam (2 g) which was used without further purification.

reactant | methyl lithium | C[Li]
reactant | 7-hydroxy-4-(2-naphthyl)coumarin | 0.01 mole, 2.89 g | OC1=CC=C2C(=CC(OC2=C1)=O)C1=CC2=CC=CC=C2C=C1 | C19H12O3
reactant | ether | CCOCC | C4H10O
product | 2,2-dimethyl-4-(2-naphthyl)-2H-chromen-7-ol | CC1(OC2=CC(=CC=C2C(=C1)C1=CC2=CC=CC=C2C=C1)O)C | C21H18O2
